US09255107B2
Preparation of 4-methyl-3-((2-(5-fluoro-1H-imidazol-2-yl)pyridin-5-yl)ethynyl)-N-[(S)-4-((3-dimethylaminotetrahydropyrrol-1-yl)methyl)-3-trifluoromethylphenyl]benzamide
The title compound was prepared using (S)-3-trifluoromethyl-4-(3-dimethylaminotetrahydropyrrol-1-yl)methylaniline, 3-iodo-4-methylbenzoyl chloride, trimethylsilylacetylene and 5-bromo-2-(5-fluoro-1H-imidazol-2-yl)pyridine as raw materials, according to the method described in Example 3.

reactant | (S)-3-trifluoromethyl-4-(3-dimethylaminotetrahydropyrrol-1-yl)methylaniline | FC(C=1C=C(N)C=CC1CN1C[C@H](CC1)N(C)C)(F)F | C14H20F3N3
reactant | 3-iodo-4-methylbenzoyl chloride | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | 5-bromo-2-(5-fluoro-1H-imidazol-2-yl)pyridine | BrC=1C=CC(=NC1)C=1NC(=CN1)F | C8H5BrFN3
product | 4-methyl-3-((2-(5-fluoro-1H-imidazol-2-yl)pyridin-5-yl)ethynyl)-N-[(S)-4-((3-dimethylaminotetrahydropyrrol-1-yl)methyl)-3-trifluoromethylphenyl]benzamide | CC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2C[C@H](CC2)N(C)C)C(F)(F)F)C=C1)C#CC=1C=CC(=NC1)C=1NC(=CN1)F | C32H30F4N6O
